US07456174B2
5-(1-Ethyl-piperidin-4-ylamino)-1H-indole-2-carboxylic acid ethyl ester
A mixture of 0.204 g (1 mmol) 5-amino-1H-indole-2-carboxylic acid ethyl ester, 133 mg (1 mmol) 1-ethyl piperidone and 0.35 ml (1 mmol) titanium(IV)isopropoxide in 1 ml methanol was treated after 3 h at room temperature with 0.023 g (1 mmol) sodium borohydride and the mixture was allowed to react during 16 h at room temperature. The mixture was poured on 50 ml ice/water and treated with 50 ml ethyl acetate and 5 ml 1 N NaOH aq. After 20 min the mixture was filtered through decalite and the aqueous phase was extracted with 50 ml ethyl acetate. The combined organic phases were washed with 50 ml NaCl sat., dried over Na2SO4 and after filtration evaporated to dryness. The residue was purified over silica eluting with a gradient of dichloromethane (DCM)/2N NH3 in methanol and 0.240 g (76%) of the title compound were isolated as brown solid. MS (m/e): 316.1 (MH+, 100%).

reactant | 5-amino-1H-indole-2-carboxylic acid ethyl ester | 1 mmol, 0.204 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)N | C11H12N2O2
reactant | 1-ethyl piperidone | 1 mmol, 133 mg | C(C)N1C(CCCC1)=O | C7H13NO
reactant | sodium borohydride | 1 mmol, 0.023 g | [BH4-].[Na+]
reactant | NaOH | 1 N, 5 ml | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
catalyst | titanium(IV)isopropoxide | 1 mmol, 0.35 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5-(1-Ethyl-piperidin-4-ylamino)-1H-indole-2-carboxylic acid ethyl ester | 0.240 g, 76% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC1CCN(CC1)CC | C18H25N3O2
